US09399640B2
Step 4. 1-Methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-4-(phenylthio)-1,3-dihydro-2H-benzimidazol-2-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 5-bromo-1-methyl-4-(phenylthio)-1,3-dihydro-2H-benzimidazol-2-one and 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C29H25N4O4S2 (M+H)+: m/z=557.1. found: 557.0.

reactant | 5-bromo-1-methyl-4-(phenylthio)-1,3-dihydro-2H-benzimidazol-2-one | BrC1=C(C2=C(N(C(N2)=O)C)C=C1)SC1=CC=CC=C1 | C14H11BrN2OS
reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 1-Methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-4-(phenylthio)-1,3-dihydro-2H-benzimidazol-2-one | CN1C(NC2=C1C=CC(=C2SC2=CC=CC=C2)C=2C1=C(C(N(C2)C)=O)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C29H24N4O4S2
